US08580841B2
Step B: Preparation of 2-(7-(4-(1,2,3-Thiadiazol-4-yl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetic Acid.
To a solution of ethyl 2-(7-(4-(1,2,3-thiadiazol-4-yl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate (42.7 mg, 0.030 mmol) in dioxane was added 1M LiOH (0.394 mL, 0.394 mmol). The reaction was stirred overnight. The reaction mixture was taken up in EtOAc and washed with 1 M HCl. The EtOAc extract was dried over MgSO4 and concentrated. The residue was purified by silica gel column chromatography to give the title compound as a solid. LCMS m/z=406.4 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.03-2.12 (m, 1H), 2.36 (dd, J=16.04, 8.97 Hz, 1H), 2.58-2.79 (m, 4H), 3.41-3.51 (m, 1H), 5.16 (s, 2H), 6.74 (dd, J=8.78, 2.46 Hz, 1H), 6.95 (d, J=2.40 Hz, 1H), 7.21 (d, J=8.72 Hz, 1H), 7.63 (d, J=8.21 Hz, 2H), 8.15 (d, J=8.21 Hz, 2H), 9.61 (s, 1H), 10.46 (s, 1H), 12.19 (bs, 1H).

reactant | ethyl 2-(7-(4-(1,2,3-thiadiazol-4-yl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate | 0.030 mmol, 42.7 mg | S1N=NC(=C1)C1=CC=C(COC2=CC=3C4=C(NC3C=C2)C(CC4)CC(=O)OCC)C=C1 | C24H23N3O3S
reactant | LiOH | 0.394 mmol, 1M, 0.394 mL | [Li+].[OH-]
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(7-(4-(1,2,3-Thiadiazol-4-yl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetic Acid | S1N=NC(=C1)C1=CC=C(COC2=CC=3C4=C(NC3C=C2)C(CC4)CC(=O)O)C=C1 | C22H19N3O3S
